US08008298B2
{2-[3-(3-Hydroxy-propyl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-(1-methyl-cyclohexyl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 3-(3-hydroxypropyl)phenylboronic acid following general procedures as described in these Examples. MP 80-83° C., M+H=378.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 3-(3-hydroxypropyl)phenylboronic acid | OCCCC=1C=C(C=CC1)B(O)O | C9H13BO3
product | {2-[3-(3-Hydroxy-propyl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-(1-methyl-cyclohexyl)-methanone | OCCCC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C23H27N3O2
